US07790747B2
A solution of 2-mercaptopyridine (484 mg, 4.35 mmol), methyl bromoacetate (0.45 ml, 4.8 mmol), and Et3N (0.79 ml, 5.7 mmol) in CH3CN (22 ml) was stirred at room temperature for 20 h to give (pyridin-2-ylsulfanyl)-acetic acid methyl ester as a colorless oil (752 mg, 94%) after aqueous work-up and purification.

reactant | 2-mercaptopyridine | 4.35 mmol, 484 mg | SC1=NC=CC=C1 | C5H5NS
reactant | methyl bromoacetate | 4.8 mmol, 0.45 ml | BrCC(=O)OC | C3H5BrO2
reactant | Et3N | 5.7 mmol, 0.79 ml | CCN(CC)CC | C6H15N
solvent | CH3CN | 22 ml | CC#N | C2H3N
product | (pyridin-2-ylsulfanyl)-acetic acid methyl ester | 752 mg, 94% | COC(CSC1=NC=CC=C1)=O | C8H9NO2S
